US08445501B2
5-Butoxy-benzo[1,3]dioxole
Starting from commercially available bromobutane and sesamol the title compound is obtained as colorless oil.

reactant | bromobutane | BrCCCC | C4H9Br
reactant | sesamol | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
product | 5-Butoxy-benzo[1,3]dioxole | C(CCC)OC1=CC2=C(OCO2)C=C1 | C11H14O3
